US05317025
2,5-Dimethyl-3-[[1-(phenylmethyl)piperidin-4-yl]thio]-1H-indole hydrochloride
Paratolylhydrazine hydrochloride (20 g) is added to a solution of 4-[(2-oxopropyl)thio]-1-(phenylmethyl)piperidine (33.2 g), prepared in Example 8, in isopropanol (150 ml) under nitrogen. After 30 minutes, the solution is cooled to 0° C. and saturated with gaseous hydrogen chloride. After 4 hours at room temperature, the precipitate formed is filtered off, washed with water and then taken up in hot ethanol. After cooling, the white crystals of 2,5-dimethyl-3-[[1-(phenylmethyl) piperidin-4-yl]thio]-1H-indole hydrochloride (28.3 g) are filtered off.

reactant | Paratolylhydrazine hydrochloride | 20 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | 4-[(2-oxopropyl)thio]-1-(phenylmethyl)piperidine | 33.2 g | O=C(CSC1CCN(CC1)CC1=CC=CC=C1)C | C15H21NOS
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 2,5-Dimethyl-3-[[1-(phenylmethyl)piperidin-4-yl]thio]-1H-indole hydrochloride | Cl.CC=1NC2=CC=C(C=C2C1SC1CCN(CC1)CC1=CC=CC=C1)C | InChI=1S/C22H26N2S.ClH/c1-16-8-9-21-20(14-16)22(17(2)23-21)25-19-10-12-24(13-11-19)15-18-6-4-3-5-7-18;/h3-9,14,19,23H,10-13,15H2,1-2H3;1H
